US08835644B2
Methyl 5-bromofuran-2-carboxylate (150 mg, 0.73 mmol), Pd(PPh3)4 (42 mg, 0.04 mmol), 2M Na2CO3 (0.73 ml, 1.46 mmol) and thiophen-2-ylboronic acid (121 mg, 0.95 mmol) in 1,4-dioxanes (7 ml) and was warmed to 90° C. The solution was then held at this temperature for 26 hours then cooled and washed with 1M HCl (2×20 mL), brine (2×20 mL) then dried (MgSO4) followed by filtration and evaporation to dryness. The resulting residue was then purified by flash column chromatography (5% EtOAc/hexanes) to obtain methyl 5-(thiophen-2-yl)furan-2-carboxylate (138 mg, 91%) as a yellow oil. 1H NMR (500 MHz, DMSO-d6) δ 7.69 (dt, J=5.0, 0.9 Hz, 1H), 7.59 (dt, J=3.6, 0.8 Hz, 1H), 7.40 (dd, J=3.7, 0.6 Hz, 1H), 7.23-7.15 (m, 1H), 6.99 (d, J=3.7 Hz, 1H), 3.83 (s, 3H); 13C NMR (125 MHz, DMSO-d6) δ 158.1, 152.5, 142.3, 131.2, 128.5, 127.7, 125.8, 120.7, 107.5, 51.8; HRMS (ESI) calcd for [C10H8O3S+H]+ 209.0267. found 209.0272. Method D with methyl 5-(thiophen-2-yl)furan-2-carboxylate (100 mg, 0.48 mmol) afforded 5-(thiophen-2-yl)furan-2-carboxylic acid (92 mg, 99%) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 13.16 (bs, 1H), 7.68 (dd, J=5.0, 1.1 Hz, 1H), 7.56 (dd, J=3.6, 1.1 Hz, 1H), 7.30 (d, J=3.6 Hz, 1H), 7.18 (dd, J=5.0, 3.7 Hz, 1H), 6.95 (d, J=3.6 Hz, 1H); 13C NMR (125 MHz, DMSO-d6) δ 159.1, 152.0, 143.5, 131.5, 128.5, 127.4, 125.5, 120.0, 107.4; HRMS (ESI) calcd for [C9H6O3S+H]+ 195.0110. found 195.0112. Method B with 5-(thiophen-2-yl)furan-2-carboxylic acid (75 mg, 0.39 mmol) afforded the title compound VPC16b1145 (46 mg, 37%) as a yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 13.69 (bs, 1H), 8.72 (s, 1H), 7.81 (d, J=3.8 Hz, 1H), 7.73 (t, J=4.4 Hz, 2H), 7.22 (dd, J=4.9, 3.7 Hz, 1H), 7.07 (d, J=3.8 Hz, 1H); 13C NMR (125 MHz, DMSO-d6) δ 162.2, 156.0, 153.2, 143.2, 142.5, 141.9, 131.1, 128.4, 128.1, 126.5, 120.7, 107.8; HRMS (ESI) calcd for [C12H7N3O4S2+H]+ 321.9951. found 321.9963.

reactant | Methyl 5-bromofuran-2-carboxylate | 0.73 mmol, 150 mg | BrC1=CC=C(O1)C(=O)OC | C6H5BrO3
reactant | Na2CO3 | 1.46 mmol, 2M, 0.73 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | thiophen-2-ylboronic acid | 0.95 mmol, 121 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
catalyst | Pd(PPh3)4 | 0.04 mmol, 42 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 5-(thiophen-2-yl)furan-2-carboxylate | 138 mg, 91% | S1C(=CC=C1)C1=CC=C(O1)C(=O)OC | C10H8O3S
